US08278473B2
To a solution of 2.0 g (10.8 mmol) of ethyl 4,4,4-trifluoroacetoacetate in 10 ml of DMF was added 2.28 g of p-toluenesulfonyl chloride and 4.24 g of cesium carbonate and stirred at room temperature overnight. The reaction solution was poured into water and extracted with tert-butyl methyl ether. The organic layer was washed with a saturated NaCl solution, dried over anhydrous MgSO4, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 2.27 g of ethyl 4,4,4-trifluoro-3-p-toluenesulfonyloxy-2-butenoate.

reactant | ethyl 4,4,4-trifluoroacetoacetate | 10.8 mmol, 2.0 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | p-toluenesulfonyl chloride | 2.28 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | cesium carbonate | 4.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 4,4,4-trifluoro-3-p-toluenesulfonyloxy-2-butenoate | 2.27 g | FC(C(=CC(=O)OCC)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C13H13F3O5S
